US06037342
5-Chloro-6-amino-2-(4-methyl-1-homopiperazinyl)benzoxazole
A 50 mg portion of 5-chloro-6-nitro-2-(4-methyl-1-homopiperazinyl)benzoxazole was dissolved in 15 ml of methanol, and the resulting solution was mixed with 5 ml of 1 N hydrochloric acid aqueous solution and 30 mg of Pd/C catalyst and, after replacing the atmosphere in the reaction container by hydrogen gas, stirred at room temperature for 15 hours. The catalyst was removed by filtration and the solvent was concentrated under a reduced pressure. The thus remained oily matter was mixed with 5 ml of 1 N hydrochloric acid and washed with ethyl acetate. This was adjusted to pH 8 by adding saturated sodium bicarbonate, and the thus precipitated crystals were collected by filtration to obtain the title compound (16 mg).

reactant | 5-chloro-6-nitro-2-(4-methyl-1-homopiperazinyl)benzoxazole | ClC=1C(=CC2=C(N=C(O2)N2CCN(CCC2)C)C1)[N+](=O)[O-] | C13H15ClN4O3
reactant | hydrochloric acid | 1 N, 5 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 ml | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 5-Chloro-6-amino-2-(4-methyl-1-homopiperazinyl)benzoxazole | 16 mg | ClC=1C(=CC2=C(N=C(O2)N2CCN(CCC2)C)C1)N | C13H17ClN4O
